US09263682B2
Demethylate 3-methoxy-9-phenylcarbazole (E-4) in the same manner as in Synthesis of Carbazole Derivative 1 to obtain 3-hydroxy-9-phenylcarbazole (E-5) having a colorless needle-like form with a yield of 91.8%; etherify the thus obtained 3-hydroxy-9-phenylcarbazole having a colorless needle-like form with 8-bromooctanol in the same manner as in Synthesis of Carbazole Derivative 2 to obtain 3-(8-hydroxyoctyloxy)-9-phenyl carbazole (E-6) having a colorless needle-like form with a yield of 84.3%; tosylate, thioacetylate, and hydlolyze the thus obtained 3-(8-hydroxyoctyloxy)-9-phenyl carbazole in the same manner as in Synthesis of Carbazole Derivative 2 to obtain 3-(8-meracaptooctyloxy)-9-phenyl carbazole (E-9) (hereinafter referred to as carbazole derivative 3) having a colorless needle-like form represented by the chemical structure 9.

reactant | 3-hydroxy-9-phenylcarbazole | OC=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC=C1 | C18H13NO
reactant | 8-bromooctanol | BrCCCCCCCCO | C8H17BrO
reactant | Carbazole | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
product | 3-(8-hydroxyoctyloxy)-9-phenyl carbazole | yield of 84.3% | OCCCCCCCCOC=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC=C1 | C26H29NO2
